US05374766
Racemic 1-oxo-5-hydroxymethyl-2-cyclohexene (0.5 g, 4.55 mmol ), Lipase OF (1.00 g), and n-butyric anhydride (0.72 g, 4.55 mmol) were mixed and suspended in isopropyl ether (25 ml), followed by vigorous stirring at 23° C. for 24 hours. The reaction mixture was filtered through cerite and the filtrate was concentrated. The residue was purified by0column chromatography (SiO2, 20 g, hexane:EtOAc=9:1-1:1) to give 0.89 g of 1-oxo-5-butyroyloxymethyl-2-cyclohexene (yield: 99% or more).

reactant | Racemic 1-oxo-5-hydroxymethyl-2-cyclohexene | 4.55 mmol, 0.5 g | O=C1C=CCC(C1)CO | C7H10O2
reactant | n-butyric anhydride | 4.55 mmol, 0.72 g | C(CCC)(=O)OC(CCC)=O | C8H14O3
solvent | isopropyl ether | 25 ml | C(C)(C)OC(C)C | C6H14O
product | 1-oxo-5-butyroyloxymethyl-2-cyclohexene | 0.89 g, yield: 99% or more | O=C1C=CCC(C1)COC(CCC)=O | C11H16O3
